US05272147
5-[5-(2-Hydroxyethoxymethyl)-2-n-propoxyphenyl]-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one
This compound was prepared from 5-(5-chloromethyl-2-n-propoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one and ethylene glycol following the procedure of Example 38 and was obtained as a white solid (45%), m.p. 101°-102° C. Found C,63.13; H,6.88; N,13.98. C21H28N4O4 requires C,62.98; H,7.05; N,13.99%.

reactant | 5-(5-chloromethyl-2-n-propoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one | ClCC=1C=CC(=C(C1)C=1NC(C2=C(N1)C(=NN2C)CCC)=O)OCCC | C19H23ClN4O2
reactant | ethylene glycol | C(CO)O | C2H6O2
product | 5-[5-(2-Hydroxyethoxymethyl)-2-n-propoxyphenyl]-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one | 45% | OCCOCC=1C=CC(=C(C1)C=1NC(C2=C(N1)C(=NN2C)CCC)=O)OCCC | C21H28N4O4
